US08471063B2
1.2. Nα-tert.-butyloxycarbonyl-L-glutamic acid 5-methyl ester 1-tert.-butyl ester
2.3 g of N-tert.butyloxycarbonyl-L-glutamic acid 1-tert.-butyl ester (7.58 mmol) are dissolved in 80 ml of methanol and a freshly prepared diazomethane solution (23 mmol of Diazald®) is added dropwise at room temperature. After one hour, the solvent is removed under vacuum. The compound is purified using chromatography on silica gel. (column: 18.5*4 cm, DCM/MeOH=99/1, Rf=0.99).

reactant | N-tert.butyloxycarbonyl-L-glutamic acid 1-tert.-butyl ester | 7.58 mmol, 2.3 g | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCC(=O)O)=O | C14H25NO6
reactant | diazomethane | 23 mmol | [N+](=[N-])=C | CH2N2
solvent | methanol | 80 ml | CO | CH4O
product | Nα-tert.-butyloxycarbonyl-L-glutamic acid 5-methyl ester 1-tert.-butyl ester | C(C)(C)(C)OC([C@@H](NC(=O)OC(C)(C)C)CCC(=O)OC)=O | C15H27NO6
